US07592373B2
(E)-3-(4-{[(1-acetylpiperidin-4-yl)methylamino]methyl}phenyl)-N-(4′-chlorobiphenyl-4-yl)acrylamide
0.017 mL (0.18 mmol) of acetic anhydride is added to a solution of 50 mg (0.087 mmol) of (E)—N-(4′-chlorobiphenyl-4-yl)-3-{4[(methylpiperidin-4-ylamino)methyl]phenyl}acrylamide×trifluoroacetic acid acetate in 4 mL of acetic acid and the mixture is stirred for 18 hours at ambient temperature. Then the reaction mixture is poured onto water and made basic with ammonia. The precipitate formed is suction filtered and washed with water. The product is dried at 60° C. in the circulating air dryer. Yield: 20 mg (46% of theory); C30H32ClN3O2 (M=502.05); melting point: 225° C.-226° C.; calc.: molecular ion peak (M+H)+: 502/504 (Cl); found: molecular ion peak (M+H)+: 502/504 (Cl).

reactant | acetic anhydride | 0.18 mmol, 0.017 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | (E)—N-(4′-chlorobiphenyl-4-yl)-3-{4[(methylpiperidin-4-ylamino)methyl]phenyl}acrylamide | 0.087 mmol, 50 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)CN(C1CCNCC1)C)=O | C28H30ClN3O
reactant | trifluoroacetic acid acetate | C(C)(=O)O.FC(C(=O)O)(F)F
reactant | ammonia | N | H3N
reactant | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | (E)-3-(4-{[(1-acetylpiperidin-4-yl)methylamino]methyl}phenyl)-N-(4′-chlorobiphenyl-4-yl)acrylamide | C(C)(=O)N1CCC(CC1)CNCC1=CC=C(C=C1)/C=C/C(=O)NC1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C30H32ClN3O2
